.title kicad schematic

.include NMOS-180nm.lib
r5 gnd /b2 1k
v4 /clk_inv gnd pulse(0 5 10m 1m 1m 10m 20m)
m6 /out /clk_inv /b2 /b2 CMOSN W=100u L=100u M=1
r4 gnd /b1 1k
r2 gnd /in 1k
v2 /in gnd sine(2.5 2.5 100 0 0)
r3 /net2 vdd 1k
m2 /net2 /in gnd gnd CMOSN W=100u L=100u M=1
v5 vdd gnd  dc 5
r1 /net1 vdd 1k
v1 /vbias gnd  dc 5
m1 /net1 /vbias /in /in CMOSN W=100u L=100u M=1
r6 gnd /out 10k
v3 /clk gnd pulse(0 5 0 1m 1m 10m 20m)
m4 vdd /net2 /b2 /b2 CMOSN W=100u L=100u M=1
m3 vdd /net1 /b1 /b1 CMOSN W=100u L=100u M=1
m5 /out /clk /b1 /b1 CMOSN W=100u L=100u M=1
* u3 /out plot_v1
.tran 10e-03 100e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(/out)
.endc
.end
